US07557105B2
Step 1.4: N-{2-[(2-Propenyloxy)-methyl]-5-nitro-phenyl}-4-(3-pyridinyl)-2-pyrimidinamine
A stirred mixture of {2-[(2-propenyloxy)-methyl]-5-nitro-phenyl}-guanidine (3.75 g, 15 mmol), 3-(dimethylamino)-1-(3-pyridinyl)-2-propen-1-one (2.60 g, 15 mmol) and ethyl diisopropylamine (2.6 mL, 15 mmol) in 1-butanol (50 mL) is heated at 120° C. for 20 h. The solvent is then evaporated off under reduced pressure to give a residue which is dissolved in ethyl acetate (100 mL). The resulting mixture is filtered (celite), washed with saturated aqueous sodium chloride (50 mL), dried (MgSO4), filtered and the solvent is evaporated off under reduced pressure to yield the crude product which is purified by column chromatography on silica gel, eluent ethyl acetate, and recrystallised from ethyl acetate-hexane to give the title compound as a yellow crystalline solid, m.p. 213-2150C.

reactant | {2-[(2-propenyloxy)-methyl]-5-nitro-phenyl}-guanidine | 15 mmol, 3.75 g | C(C=C)OCC1=C(C=C(C=C1)[N+](=O)[O-])NC(=N)N | C11H14N4O3
reactant | 3-(dimethylamino)-1-(3-pyridinyl)-2-propen-1-one | 15 mmol, 2.60 g | CN(C=CC(=O)C=1C=NC=CC1)C | C10H12N2O
reactant | ethyl diisopropylamine | 15 mmol, 2.6 mL | C(C)N(C(C)C)C(C)C | C8H19N
solvent | 1-butanol | 50 mL | C(CCC)O | C4H10O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | N-{2-[(2-Propenyloxy)-methyl]-5-nitro-phenyl}-4-(3-pyridinyl)-2-pyrimidinamine | C(C=C)OCC1=C(C=C(C=C1)[N+](=O)[O-])NC1=NC=CC(=N1)C=1C=NC=CC1 | C19H17N5O3
